US04256759
To the suspension of 1.0 g of 1,3,5-trimethyl-β-oxo-2-pyrrolpropionitrile in 30 ml of dry toluene and 0.7 g of anhydrous triethylamine, 0.75 g of phenylisocyanate are added while stirring. The mixture is warmed for 5 minutes at the steam cone and allowed to stand at room temperature overnight. It is filtered, the residue taken up in methanol and the solution acidified with N hydrochloric acid. The precipitate formed is collected, dissolved in N aqueous sodium hydroxide, re-precipitated with 5 N hydrochloric acid and washed with water, to yield the 1,3,5-trimethyl-β-oxo-α-phenylcarbamoyl-2-pyrrolpropionitrile melting at 172°-174°.

reactant | 1,3,5-trimethyl-β-oxo-2-pyrrolpropionitrile | 1.0 g | CN1C(=C(C=C1C)C)C(CC#N)=O | C10H12N2O
reactant | phenylisocyanate | 0.75 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 0.7 g | C(C)N(CC)CC | C6H15N
product | 1,3,5-trimethyl-β-oxo-α-phenylcarbamoyl-2-pyrrolpropionitrile | CN1C(=C(C=C1C)C)C(C(C#N)C(NC1=CC=CC=C1)=O)=O | C17H17N3O2
